reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C@:3]1([H:12])[C@@:4]([N:6]([H:14])[H:15])([H:13])[O:5]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],62.9762304349784
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C@@:3]([O:4][H:8])([C:5]#[C:6][H:12])[H:11])[H:10])([H:7])[H:9],95.242447093168
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]12[C:2]([H:7])([H:8])[O:3][C:4]([H:9])([H:10])[C@@:5]1([H:11])[O:6]2,84.3594781889902
[N:3](=[C:4]([H:9])[H:10])[H:8].[O:1]=[C:2]([C:5]#[C:6][H:11])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],55.72729008361159
[C:1]([C:5](=[C:4]=[C:2]=[O:3])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8],94.36410265434859
[O:1](/[C:2](=[N:3]/[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:7])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],31.809743243863508
[C:1](/[C:2]([O:3][H:11])=[C:4](/[O:6][H:16])[H:12])([H:7])([H:8])[H:9].[C:5]([H:10])([H:13])([H:14])[H:15]>>[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9],97.7593852021687
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][N+:6]#[C-:5])[H:11])[H:10])([H:7])([H:8])[H:9],121.05858042876801
[C:1]([N:5]([C@@:4]1([C:7]([H:14])([H:15])[H:16])[O:2][C:3]1([H:11])[H:12])[O:6][H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],89.8115829648586
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:7][C:6](=[C:5]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10].[O:2]=[C:3]=[O:4],79.3895972450624
[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[O:3])[H:7])[N:6]=[C:5]=[C:4]([H:8])[H:9],82.1389953274458
[C:6](#[N:7])[H:11].[O:1]([C:2]([C-:3]=[C:4]=[C+:5][H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],19.380505975368507
[C:1](/[C:2](=[C:5](/[O:6][C:3](=[O:4])[H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],47.661606972609775
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:4](/[C:5]([H:14])([H:16])[H:18])[H:15])[C:6](=[O:7])[H:19])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:17],100.336039178651
[C:1]([N:2]=[C:3]=[O:4])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:11]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],69.75086262716201
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]1([H:13])[O:5][C:6]1([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:14])[H:17],78.0027574568458
[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[O:4][H:10])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:12],92.5309270016458
[C:1](=[C:2]=[C:3]=[C:4]=[C:5]([H:8])[H:9])([H:6])[H:7]>>[C:1]([C:2]#[C:3][C:4]#[C:5][H:9])([H:6])([H:7])[H:8],74.68340815010544
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([O+:7]=[C-:6][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],47.9903043860194
[C:1]([N:2]=[C:3]=[O:4])([H:8])([H:9])[H:10].[H:11][H:12].[N:5](=[C:6]([H:13])[H:14])[C:7]([H:15])([H:16])[H:17]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],30.666357343124304
[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10]>>[O+:1](=[C-:2][H:7])[C@@:3]1([H:8])[C@@:4]2([H:9])[O:5][C@@:6]12[H:10],82.192538428746
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:12])[H:13])([H:7])([H:8])[H:9].[H:10][H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],69.2789793161444
[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[C-:5]#[O+:6].[O:1]([C:2]([C:3][O:4][H:10])([H:8])[H:9])[H:7],59.268332385505
[O:1]1[C:2]([H:6])([H:7])[C:3]1([H:8])[H:9].[O:4]([H:5])[H:10]>>[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5],57.296031545926894
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[O:2][C:3]([H:11])([H:12])[C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[C@:6]1([O:7][H:8])[H:17],76.61517543871629
[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([N+:6]#[C-:5])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],30.472574814339595
